US07399780B2
1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-methyl-1,4-diazepane
To a solution of 2-chloro-5-(chloromethyl)pyridine 1-oxide (940 mg, 5.28 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333) in acetonitrile (30 mL) were added N-methylhomopiperazine (1.21 g, 10.6 mmol), and K2CO3 (730 mg, 5.28 mmol). The reaction mixture was stirred at room temperature for 3.5 days. The solvent was removed in vacuo, and the residue was partitioned between brine and ethyl acetate. The aqueous layer was extracted with another two portions of ethyl acetate and one portion of tetrahydrofuran. The combined organic layers were dried (Na2SO4), and evaporated to give 0.86 g (64% yield) of the title compound as an orange oil: 1H NMR (aceton-d6, 400 MHz) δ 8.30 (dd, J=2 Hz, 1 H), 7.60 (d, J=8 Hz, 1 H), 7.29 (dd, J=8, 2 Hz, 1 H), 3.65 (s, 2 H), 2.74-2.69 (m, 4 H), 2.62-2.54 (m, 4 H), 2.29 (s, 3 H), 1.81-1.75 (m, 2 H); MS (ES) m/z 256 (M++1).

reactant | 2-chloro-5-(chloromethyl)pyridine 1-oxide | 5.28 mmol, 940 mg | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | N-methylhomopiperazine | 10.6 mmol, 1.21 g | CN1CCNCCC1 | C6H14N2
reactant | K2CO3 | 5.28 mmol, 730 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-methyl-1,4-diazepane | 0.86 g, 64% yield | ClC1=CC=C(C=[N+]1[O-])CN1CCN(CCC1)C | C12H18ClN3O
